US07678917B2
A solution of (1S,2S,4R)—N—Boc-1-amino-2-hydroxycyclopentane-4-carboxylic acid methyl ester (0.2 g) in 4M HCl in dioxane (4 ml) was stirred under an argon atmosphere at r.t. for 2 hrs. The reaction mixture was concentrated to give (1R,3S,4S)-3-amino-4-hydroxy-cyclopentanecarboxylic acid methyl ester hydrochloride (165 mg, contains some dioxane) as light brown gum. MS: 160.4 ([M+H]+).

reactant | (1S,2S,4R)—N—Boc-1-amino-2-hydroxycyclopentane-4-carboxylic acid methyl ester | 0.2 g | COC(=O)[C@H]1C[C@@H]([C@H](C1)NC(=O)OC(C)(C)C)O | C12H21NO5
reactant | HCl | 4M | Cl | ClH
solvent | dioxane | 4 ml | O1CCOCC1 | C4H8O2
product | (1R,3S,4S)-3-amino-4-hydroxy-cyclopentanecarboxylic acid methyl ester hydrochloride | Cl.COC(=O)[C@@H]1C[C@@H]([C@H](C1)O)N | InChI=1S/C7H13NO3.ClH/c1-11-7(10)4-2-5(8)6(9)3-4;/h4-6,9H,2-3,8H2,1H3;1H/t4-,5+,6+;/m1./s1
